US04933333
2.2 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone was dissolved in 20 ml of dried methylene chloride, and 0.88 g of m-dimethoxybenzene and 2.5 ml of trifluoroacetic acid were added to the solution, followed by stirring at room temperature for 4 hours. The solvent was removed by distillation, and the resulting oily residue was subjected to silica gel chromatography to obtain 1.75 g of 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-carboxymethyl-2-azetidinone.

reactant | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-p-methoxybenzyloxycarbonylmethyl-2-azetidinone | 2.2 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(=O)OCC1=CC=C(C=C1)OC)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C40H42N2O11
reactant | m-dimethoxybenzene | 0.88 g | COC1=CC(=CC=C1)OC | C8H10O2
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 1-(di-p-anisylmethyl)-3-(1-p-nitrobenzyloxycarbonyloxyethyl)-4-carboxymethyl-2-azetidinone | 1.75 g | C(C1=CC=C(C=C1)OC)C(N1C(C(C1CC(=O)O)C(C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)CC1=CC=C(C=C1)OC | C32H34N2O10
